US07589076B2
3,4-Difluorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
3,4-Difluoro-phenol (3.85 g, 29.6 mmol) was added as a solution in THF and dimethylaniline to a mixture of triphosgene (2.849 g, 9.6 mmol) in THF according to general procedure 3. Yield=4.6 g, 56%. m/z MH+=280.15. HPLC rt=11.88 min.

reactant | 3,4-Difluoro-phenol | 29.6 mmol, 3.85 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | triphosgene | 9.6 mmol, 2.849 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | THF | C1CCOC1 | C4H8O
product | 3,4-Difluorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC(=C(C=C1)F)F | C15H15F2NO2
